US04002623
To a solution composed of 75 ml. ethanol and 1 ml. glacial acetic acid was added 2-(4-trifluoromethylbenzamido)-1-[3-(4-benzyl-1-piperazinyl)-propyl]benzimidazole (500 mg., 0.96 millimole) and 100 mg. of 10% Pd/C catalyst. The mixture was shaken on a Paar apparatus at about 2 atm. pressure of hydrogen and 40° C. for 2.5 hrs. at which time the reaction was complete. The catalyst was removed by filtration and the filtrate was evaporated in vacuo to yield a white solid, which on trituration under acetone yielded 300 mg. (63.9% yield) of 2-(4-trifluoromethylbenzamido)-1-[3-(1-piperazinyl)propyl]benzimidazole, as a white crystalline solid, m.p. 184°-185° C.

reactant | ethanol | C(C)O | C2H6O
reactant | 2-(4-trifluoromethylbenzamido)-1-[3-(4-benzyl-1-piperazinyl)-propyl]benzimidazole | 0.96 millimole, 500 mg | FC(C1=CC=C(C(=O)NC2=NC3=C(N2CCCN2CCN(CC2)CC2=CC=CC=C2)C=CC=C3)C=C1)(F)F | C29H30F3N5O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-trifluoromethylbenzamido)-1-[3-(1-piperazinyl)propyl]benzimidazole | 63.9% yield | FC(C1=CC=C(C(=O)NC2=NC3=C(N2CCCN2CCNCC2)C=CC=C3)C=C1)(F)F | C22H24F3N5O
